US09359338B2
Step 2: Synthesis of 5-(benzhydrylideneamino)-2-fluoro-benzonitrile
Add 5-bromo-2-fluoro-benzonitrile (0.5 g, 2.5 mmol), benzophenone imine (0.543 g, 3 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 60 mg, 0.1 mmol), tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 50 mg, 0.05 mmol], and Cs2CO3 (1.6 g, 4.9 mmol) in 1,4-dioxane (20 mL). Stir the reaction under N2 at 110° C. for 16 hrs. Cool to room temperature, filter the solid, and concentrate the filtrate to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:3) affords the title compound (0.78 g, 99%). MS: (M+1): 301.

reactant | 5-bromo-2-fluoro-benzonitrile | 2.5 mmol, 0.5 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | benzophenone imine | 3 mmol, 0.543 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | Cs2CO3 | 4.9 mmol, 1.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.05 mmol, 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.1 mmol, 60 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 5-(benzhydrylideneamino)-2-fluoro-benzonitrile | 0.78 g, 99% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=CC(=C(C#N)C1)F | C20H13FN2
